US07601714B2
5-Chloro-2-methylsulfanyl-benzonitrile (3.9 g, 21.2 mmol) was dissolved in THF (42 mL) and cooled to 0 degrees C. Borane-THF complex (50 mL of a 1M THF solution) was added dropwise. After 10 minutes at 0 degrees C. the reaction was warmed to 65 degrees C. for 4 h. Methanol (approximately 30 mL) was added to the reaction at 0 degrees C. The reaction was warmed to room temperature and stirred for 10 minutes. The reaction solution was concentrated in-vacuo to yield a thick oil which was dissolved in 50% THF/MeOH (30 mL). 4M HCl (30 mL) was added slowly. After 10 minutes, the solution was partitioned between water (10 mL) and DCM (20 mL). The aqueous layer was extracted with DCM (30 mL) and the organic layers were discarded. The aqueous layer was neutralized to pH9 with 5M NaOH. The solution was extracted with DCM (3×70 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to yield 2.9 g of 5-chloro-2-methylsulfanyl-benzylamine as a pale yellow oil, 1H NMR 400 MHz (CDCl3) δ 7.33 (d, 1H, J=2.4 Hz), 7.22 (dd, 1H, J=2.4, 8.4 Hz), 7.13 (d, 1H, J=5 8.4 Hz), 3.89 (s, 2H), 2.48 (s, 3H).

reactant | 5-Chloro-2-methylsulfanyl-benzonitrile | 21.2 mmol, 3.9 g | ClC=1C=CC(=C(C#N)C1)SC | C8H6ClNS
reactant | Methanol | approximately 30 mL | CO | CH4O
reactant | HCl | 4M, 30 mL | Cl | ClH
solvent | THF | 42 mL | C1CCOC1 | C4H8O
solvent | THF MeOH | 30 mL | C1CCOC1.CO
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 5-chloro-2-methylsulfanyl-benzylamine | 2.9 g | ClC=1C=CC(=C(CN)C1)SC | C8H10ClNS
